US08791100B2
1. 5-Bromo-2-ethyl-benzaldehyde, INT 35
To a solution of 2-ethyl-benzaldehyde (5.00 g, 37.3 mmol) in CH2Cl2 (23 mL) was carefully added AlCl3 (8.70 g, 65.2 mmol). The mixture was cooled to 0° C. and a solution of bromine (1.9 mL, 37.2 mmol) in CH2Cl2 (23 mL) was added over 6 hours. The reaction mixture was stirred at room temperature overnight. The mixture was poured onto an ice/water mixture and stirred for 10 minutes. The aqueous layer was extracted with EtOAc (2×). The combined organic layers were washed with 2 M HCl, saturated aqueous NaHCO3 and brine, dried over MgSO4, filtered and concentrated. The residue was purified by chromatography on silica gel (heptane/EtOAc) to afford INT 35.

reactant | 2-ethyl-benzaldehyde | 37.3 mmol, 5.00 g | C(C)C1=C(C=O)C=CC=C1 | C9H10O
reactant | AlCl3 | 65.2 mmol, 8.70 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | bromine | 37.2 mmol, 1.9 mL | BrBr | Br2
solvent | CH2Cl2 | 23 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 23 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2-ethyl-benzaldehyde | BrC=1C=CC(=C(C=O)C1)CC | C9H9BrO
